US05306827
Preparation of 2-(p-Chlorophenyl)-5-(trifluoromethyl)-3-[(trifluoromethyl)sulfonyl]pyrrole
A solution of 2-(p-chlorophenyl)-5-(trifluoromethyl)-3-[(trifluoromethyl)thio]pyrrole (1.5 g, 4.3 mmol) in acetic acid is treated with hydrogen peroxide (1.5 mL, 30%, 13 mmol), stirred at 95° C. for several hours, treated with additional hydrogen peroxide (1 mL), stirred at 90° C. for four hours, cooled to room temperature, stirred for 48 hours, treated with additional hydrogen peroxide (1 mL), stirred for several hours at reflux, cooled and diluted with an ethyl acetate/water mixture. The organic phase is separated, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain an oil. Crystallization of the oil from petroleum ether gives a white semi-solid which is chromatographed using silica gel and a 1:9 ethyl acetate/hexanes solution to obtain the title product as a white solid (mp 167°-169° C.) which is identified by 1HNMR, 19FNMR and 13CNMR spectral analyses.

reactant | 2-(p-chlorophenyl)-5-(trifluoromethyl)-3-[(trifluoromethyl)thio]pyrrole | 4.3 mmol, 1.5 g | ClC1=CC=C(C=C1)C=1NC(=CC1SC(F)(F)F)C(F)(F)F | C12H6ClF6NS
reactant | hydrogen peroxide | 13 mmol, 1.5 mL | OO | H2O2
reactant | hydrogen peroxide | 1 mL | OO | H2O2
reactant | hydrogen peroxide | 1 mL | OO | H2O2
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(p-Chlorophenyl)-5-(trifluoromethyl)-3-[(trifluoromethyl)sulfonyl]pyrrole | ClC1=CC=C(C=C1)C=1NC(=CC1S(=O)(=O)C(F)(F)F)C(F)(F)F | C12H6ClF6NO2S
